US07981903B2
5-Chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (0.6 g, 2.2 mmol) and 1-{[ethyl(methyl)amino]acetyl}-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (0.8 g, 1.8 mmol) were suspended in 50 ml of THF, the mixture was stirred at 82° C. overnight. The reaction mixture was cooled and diluted with 60 ml of ethyl acetate, and washed with saturated NaHCO3, the organic phase was dried over Na2SO4 and the solvent was removed to yield the 5-{[1-(N-ethyl-N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4 methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one. The 5-{[1-(N-ethyl-N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one was mixed with a solution of methylamine (2M in THF, 30 mL), the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with 50 ml of ethyl acetate, and washed with saturated NaCl, the organic layer was dried over Na2SO4, and the solvents removed under reduced pressure to afford the corresponding 2-({2-{[1-(N-ethyl-N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide. The 2-({2-{[1-(N-ethyl-N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide was suspended in 15 ml of dioxane, then KOH was added (it was dissolved in 5 ml of water). The reaction mixture was stirred at 92° C. for 2 hours, the reaction mixture was cooled to room temperature, the solvent was removed, the residue was re-dissolved in 50 ml of CH2Cl2, and washed with water (2×100 ml). The combined organic phase was washed with a saturated NH4OH, then dried over Na2SO4, the solvent was removed to yield the crude product and purified by chromatography on SiO2 (0% to 10% MeOH/CH2Cl2 with 0.2% added NH3) to afford 2-[(2-{[1-(N-ethyl-N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide as a yellow solid (0.26 g). 1H NMR (400 MHz), DMSO-d6) δ ppm 0.98 (t, J=6.59, 3H), 2.20 (s, 3H), 2.44 (t, J=7.33 Hz, 2H), 2.78 (d, J=3.11 Hz, 3H), 3.08 (t, J=7.51 Hz, 2H), 3.20 (s, 2H), 3.75 (s, 3H), 4.16 (t, J=7.79 Hz, 2H), 6.26 (s, 1H), 6.85-6.92 (m, 3H), 7.29 (q, J=7.05 Hz, 1H), 7.56 (s, 1H), 8.36 (d, J=8.15 Hz, 1H), 8.53 (s, 1H), 8.63 (s, 1H), 10.17 (s, 1H), 11.27 (s, 1H); ESIMS (M+H)+=547.

reactant | 2-({2-{[1-(N-ethyl-N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | C(C)N(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C35H37FN8O5S
reactant | KOH | [OH-].[K+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
product | 2-[(2-{[1-(N-ethyl-N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-methylbenzamide | 0.26 g | C(C)N(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC=C2)F)OC)C | C28H31FN8O3
